US08404719B2
4-chloro-3-[(8aR)-hexahydropyrrolo[1,2-α]pyrazin-2(1H)-ylcarbonyl]-N-[4-(trifluoromethyl)phenyl]benzenesulfonamide
To crude 2-chloro-5-(chlorosulfonyl)benzoyl chloride (2 mmol) in anhydrous dichloromethane (50 mL) was added (R)-octahydropyrrolo[1,2-α]pyrazine (0.252 g, 2 mmol) in dichloromethane (4 mL) slowly over 10 minutes at room temperature. Then sodium carbonate (0.46 g, 4.4 mmol) was added. The mixture was stirred at room temperature overnight. Then dichloromethane was removed by concentration, and 4-(trifluoromethyl)aniline (3.22 g, 20 mmol) was added. The mixture was stirred at 70° C. overnight. Then sodium carbonate (0.21 g, 2 mmol) and methanol (5 mL) were added at room temperature. The mixture was stirred for 30 minutes, then filtered, and concentrated. The residue was purified by chromatography on silica gel (ethyl acetate, then methanol/ethyl acetate=1:10) to give the titled compound: 1H NMR (500 MHz, DMSO-d6) δ ppm 1.30 (m, 1H), 1.55 (m, 1H), 1.70-2.00 (m, 4H), 2.60 (m, 2H), 2.80-3.50 (m, 4H), 4.40-4.60 (m, 1H), 7.30 (m, 2H), 7.62 (m, 2H), 7.82 (m, 3H), 11.00 (br s, 1H); MS (ESI) m/z 488 (M+H)+.

reactant | 2-chloro-5-(chlorosulfonyl)benzoyl chloride | 2 mmol | ClC1=C(C(=O)Cl)C=C(C=C1)S(=O)(=O)Cl | C7H3Cl3O3S
reactant | (R)-octahydropyrrolo[1,2-α]pyrazine | 2 mmol, 0.252 g | C1[C@@H]2N(CCN1)CCC2 | C7H14N2
reactant | sodium carbonate | 4.4 mmol, 0.46 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-(trifluoromethyl)aniline | 20 mmol, 3.22 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | sodium carbonate | 2 mmol, 0.21 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | methanol | 5 mL | CO | CH4O
product | 4-chloro-3-[(8aR)-hexahydropyrrolo[1,2-α]pyrazin-2(1H)-ylcarbonyl]-N-[4-(trifluoromethyl)phenyl]benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)C(F)(F)F)C(=O)N1C[C@@H]2N(CC1)CCC2 | C21H21ClF3N3O3S
